US08802860B2
Preparation of 1-(2,6-dimethyl-4-nitrophenyl)-3-(2-hydroxyethyl)pyridin-2(1H)-one
26.5 g (87.7 mmol) of [1-(2,6-dimethyl-4-nitrophenyl)-2-oxo-1,2-dihydropyridin-3-yl]acetic acid were introduced as initial charge in 265 ml of THF at RT. 132 ml of 1M borane solution in THF (132 mmol) were added dropwise. During this addition, the temperature increased to 27° C. The reaction mixture was stirred for 1 h at RT and then the same amount of borane solution was added. The reaction mixture was stirred overnight at RT. It was diluted with 500 ml of dichloromethane, and 500 ml of 1N sodium hydroxide solution were added with cooling. The reaction mixture was stirred for 30 min, the phases were separated and the organic phase was washed with water, dried over sodium sulphate, filtered and evaporated to dryness on a rotary evaporator. This gave 12.6 g (48%) of the desired product as crystalline solid.

reactant | [1-(2,6-dimethyl-4-nitrophenyl)-2-oxo-1,2-dihydropyridin-3-yl]acetic acid | 87.7 mmol, 26.5 g | CC1=C(C(=CC(=C1)[N+](=O)[O-])C)N1C(C(=CC=C1)CC(=O)O)=O | C15H14N2O5
reactant | borane | 1M, 132 ml | B | BH3
solvent | THF | 265 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
solvent | sodium hydroxide | 1N, 500 ml | [OH-].[Na+]
solvent | THF | 132 mmol | C1CCOC1 | C4H8O
product | 1-(2,6-dimethyl-4-nitrophenyl)-3-(2-hydroxyethyl)pyridin-2(1H)-one | CC1=C(C(=CC(=C1)[N+](=O)[O-])C)N1C(C(=CC=C1)CCO)=O | C15H16N2O4
